datasets/RMG-dataset.csv
rxn,Ea
[C:13]([S:14][H:17])([H:15])[H:16].[S:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7]>>[H:7][C:13]([S:14][H:17])([H:15])[H:16].[S:0][c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],-1.2552
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:32][O:33][H:34]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:19][O:32][O:33][H:34],58.19944
[C:0](#[C:1][C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:13])([H:14])[H:15])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[H:19]>>[C:0](#[C:1][C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([C:5]([C:6]([H:13])([H:14])[H:15])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:19])[H:9],10.7947
[C:0](=[C:1]([O:2][H:6])[H:5])([H:3])[H:4].[S:7][H:8]>>[C:0](=[C:1]([O:2])[H:5])([H:3])[H:4].[H:6][S:7][H:8],27.8236
[C:0]([C:1](=[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[O:15][H:16]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[H:10][O:15][H:16],-8.029096
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4]([C:5]([C:6]([O:7])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])[C:3]([C:4]([C:5]([C:6]([O:7][H:11])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:8])([H:9])[H:10],71.3372
[C:0]([C:1]([N:2]([H:8])[H:9])([H:6])[H:7])([H:3])([H:4])[H:5].[O:10][O:11][H:12]>>[C:0]([C:1]([N:2]([H:8])[H:9])([H:6])[H:7])([H:4])[H:5].[H:3][O:10][O:11][H:12],65.898
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:4])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[O:4])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])[H:15],46.35872
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[H:19])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])([H:8])[C:14]([C:13]([H:16])([H:17])[H:18])([C:15]([H:20])([H:21])[H:22])[H:19])[H:7],5.77392
[C:0](=[C:1]([c:2]1[c:3]([H:16])[c:4]2[c:5]3[c:6]([c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]3[c:11]1[H:20])[C:12]([H:21])=[C:13]2[H:22])[H:15])[H:14].[O:23][H:24]>>[C:0](#[C:1][c:2]1[c:3]([H:16])[c:4]2[c:5]3[c:6]([c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]3[c:11]1[H:20])[C:12]([H:21])=[C:13]2[H:22])[H:14].[H:15][O:23][H:24],0.0
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:12]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][H:12],18.2841
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[C:7]([C:8]([H:12])([H:13])[H:14])([H:9])([H:10])[H:11]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:9])([H:4])[H:5].[C:7]([C:8]([H:12])([H:13])[H:14])([H:10])[H:11],78.2408
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24]([C:25]([c:26]1[c:27]([H:36])[c:28]([H:37])[c:29]([H:38])[c:30]([H:39])[c:31]1[H:40])[H:35])([H:32])([H:33])[H:34]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:25]([C:24]([H:32])([H:33])[H:34])([c:26]1[c:27]([H:36])[c:28]([H:37])[c:29]([H:38])[c:30]([H:39])[c:31]1[H:40])[H:35])[H:12],40.4174
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]([S:10][H:20])[c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25])([H:17])([H:18])[H:19]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:9]([C:8]([H:17])([H:18])[H:19])([S:10][H:20])[c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25],107.069
[C:0]([C:1](=[C:2][c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])[H:9])[H:12])([H:10])[H:11],160.188624
[C:0](=[O:1])([H:2])[H:3].[C:4]([O:5])([H:6])([H:7])[H:8]>>[C:0](=[O:1])[H:3].[H:2][O:5][C:4]([H:6])([H:7])[H:8],12.4683
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[C:27]([H:28])([H:29])[H:30]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:14][C:27]([H:28])([H:29])[H:30],56.914952
[C:0]([C:1]([O:2][O:3])([H:7])[H:8])([H:4])([H:5])[H:6]>>[C:0](=[C:1]([H:7])[H:8])([H:5])[H:6].[O:2][O:3][H:4],125.52
